US07678796B2
1-Methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid
Sodium hydride (2.87 g, 60%, 71.8 mmol) was added slowly to methanol (62.5 mL) with stirring. 6-Hydroxy-nicotinic acid (5 g, 35.9 mmol) was added slowly, and the reaction mixture was heated to 62° C. Iodomethane (8.96 mL, 143.7 mmol) was added and the reaction was stirred overnight. The mixture was then cooled to room temperature and filtered to remove undissolved starting material. The filtrate was concentrated to yield a yellow powder which NMR analysis showed contained the title compound and methyl 1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate. This mixture was used in the subsequent reaction.

reactant | Sodium hydride | 71.8 mmol, 2.87 g | [H-].[Na+]
reactant | 6-Hydroxy-nicotinic acid | 35.9 mmol, 5 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | Iodomethane | 143.7 mmol, 8.96 mL | IC | CH3I
reactant | methyl 1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | CN1C=C(C=CC1=O)C(=O)OC | C8H9NO3
solvent | methanol | 62.5 mL | CO | CH4O
product | 1-Methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | CN1C=C(C=CC1=O)C(=O)O | C7H7NO3
